US04670465
To a stirred solution of 10.8 g (60 mmole) of hexa-2,5-diyn-1-ol tetrahydropyranyl ether [D. Van der Steen et al, Recueil 82, 1015 (1963)] in 100 ml of dry tetrahydrofuran there were added dropwise, under argon atmosphere, at 0°-5° C. 16.9 ml (0.60 mmol) of a 3.5N ethylmagnesium bromide solution in ether, maintaining the temperature at 0°-5° C. The mixture was stirred for 2 hours at 10°-15° C. and then 0.1 g of cuprous chloride were added. After 15 minutes a solution of 5.35 g (26 mmole) of 1-bromo-2-nonyne in 60 ml of dry tetrahydrofuran was added dropwise and the mixture stirred at room temperature for 3 hours. The reaction mixture was diluted with 70 ml of saturated ammonium chloride solution and extracted with methylene chloride. The organic extracts were dried and evaporated, and the residue purified by column chromatography on 450 g of silica gel, using hexane-ethyl acetate (99:1) as eluant, to provide pentadeca-2,5,8-triyn-1-ol tetrahydropyranyl ether.

reactant | hexa-2,5-diyn-1-ol tetrahydropyranyl ether | 60 mmole, 10.8 g | O1C(CCCC1)OCC#CCC#C | C11H14O2
reactant | ethylmagnesium bromide | 3.5N | C(C)[Mg]Br
reactant | 1-bromo-2-nonyne | 26 mmole, 5.35 g | BrCC#CCCCCCC | C9H15Br
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ammonium chloride | 70 ml | [Cl-].[NH4+]
product | pentadeca-2,5,8-triyn-1-ol tetrahydropyranyl ether | O1C(CCCC1)OCC#CCC#CCC#CCCCCCC | C20H28O2
